US09079916B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(4-(1-(4-chlorophenoxy)ethyl)pyrimidin-2-yl)cyclopropanecarboxamide
To 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (45 mg, 0.2 mmol) in pyridine (2 mL) was added 4-(1-(4-chlorophenoxy)ethyl)pyrimidin-2-amine (50 mg, 0.2 mmol) and the reaction mixture was stirred at 115° C. for 15 hours. The solvent was evaporated to dryness and the residue redissolved in DMF, filtered and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoracetic acid to yield the pure product. ESI-MS m/z calc. 437.9. Found 438.1 (M+1)+. Retention time 3.16 minutes.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.2 mmol, 45 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | 4-(1-(4-chlorophenoxy)ethyl)pyrimidin-2-amine | 0.2 mmol, 50 mg | ClC1=CC=C(OC(C)C2=NC(=NC=C2)N)C=C1 | C12H12ClN3O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(4-(1-(4-chlorophenoxy)ethyl)pyrimidin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=CC(=N2)C(C)OC2=CC=C(C=C2)Cl | C23H20ClN3O4
